2176-07-10 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - O2 sats dropped to 88% and increased only to 90% on 50% fiO2 at 9pm
   in setting of fever to 101. Cultures sent CXR better than am with less
   LLL infiltrate. Came back up quickly. ?mucous plug. ABG=VBG but not
   concerning. Lactate negative.
   - Got TIPS. Per IR had 350 mL contrast (a lot)
   - Transfusion threshold 25 per GI. Hct post-TIPS 26.6 then 24.5 so
   transfused 1 unit.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-7-9**] 07:30 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 89 (85 - 114) bpm
   BP: 104/61(72) {94/45(57) - 127/73(85)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,123 mL
                                                                  1,162 mL
   PO:
           TF:
   IVF:
                                                                  2,202 mL
                                                                    812 mL
   Blood products:
                                                                    921 mL
                                                                    350 mL
   Total out:
                                                                  2,610 mL
                                                                  1,000 mL
   Urine:
                                                                  2,010 mL
                                                                  1,000 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    513 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 504 (504 - 504) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.42/45/53/29/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   76 K/uL
   8.5 g/dL
   129 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   17 mg/dL
   112 mEq/L
   145 mEq/L
   24.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2176-7-8**]  10:34 PM
                             [**2176-7-8**]  11:45 PM
                             [**2176-7-9**]  04:45 AM
                             [**2176-7-9**]  04:51 AM
                             [**2176-7-9**]  10:16 AM
                             [**2176-7-9**]  07:25 PM
                             [**2176-7-9**]  09:43 PM
                             [**2176-7-10**]  01:15 AM
   WBC
   4.9
   6.3
   5.1
   7.2
   5.1
   Hct
   26.2
   27.8
   25.6
   26.6
   24.6
   Plt
   86
   78
   75
   82
   76
   Cr
   0.8
   0.7
   0.7
   TCO2
   25
   28
   30
   Glucose
   [**Telephone/Fax (3) 7957**]
   Other labs: PT / PTT / INR:15.7/42.1/1.4, ALT / AST:48/65, Alk Phos / T
   Bili:82/1.1, Differential-Neuts:78.9 %, Lymph:16.3 %, Mono:4.2 %,
   Eos:0.4 %, Lactic Acid:1.7 mmol/L, Albumin:3.0 g/dL, LDH:159 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   US abd: Coarsened hep echotexture c/w cirrhosis, no focal lsesions or
   biliary ductal dilatation. Patient main portal vein w/ flow in R ant
   and L portal v. R post portal V and splenic v not identified. Patent L
   and middle hep veins; right not identified.
   Assessment and Plan
   38 year-old man with a history of alcoholic cirrhosis, grade 1
   esophogeal varices, duodenal ulcer, and [**Doctor First Name 241**]-[**Doctor Last Name 37**] tear who presents
   with upper GIB.
   # GI bleed:  Likely secondary to gastric variceal bleed though no
   active bleeding seen on EGD, but did have clots and blood in fundus.
   Hct at presentation 29, down from a baseline of 49.  History of prior
   GI bleeds secondary to multiple etiologies, including perforated
   duodenal ulcer and [**Doctor First Name 241**]-[**Doctor Last Name 37**] tear.  Hepatology recommends emergent
   [**Last Name (un) 3755**] tube if patient rebleeds tonight.  Activated massive
   transfusion protocol. Two PIVs and [**First Name5 (NamePattern1) 342**] [**Last Name (NamePattern1) 1618**] in place. Now s/p TIPS
   procedure requiring 1 unit of PRBC after.
   - Pantoprazole 8mg/hr gtt
   - Octreotide 50 mcg/hr gtt
   - active T&S; crossmatch 4 u PRBC
   - check Hct and coags q6hr
   - transfuse for Hct<25, Plt<50
   - ciprofloxacin ppx
   - F/u hepatology recs
   - abdominal U/S to r/o portal or splenic vein thromboses
   - [**Last Name (un) 3755**] and emergent TIPS if rebleeds tonight
   # Respiratory failure:  Intubated for airway protection in setting of
   massive upper GIB.  No history of lung disease at baseline.  Of note,
   did become hypotensive to 60s on propofol.
   - fentanyl and midazolam gtt for sedation
   - wean Fi02
   - continue assist control mode
   - place arterial line
   - extubation once stabilizes
   # Alcoholism:  History of alcoholism but currently drinking 4-6 beers
   three days per week per his girlfriend.  [**Name (NI) **] of Dr.[**Name (NI) 7929**] as
   outpatient and has not abstained from alcohol despite regular
   encouragement.
   - thiamine 100 mg/day and MVI
   - CIWA with ativan in setting of alcoholic cirrhosis
   - social work consult once extubated
   # Alcoholic cirrhosis:  Has portal hypertension with varices on EGD.
   On nadolol as outpatient.  Also with good synthetic function overall
   with albumin of 4 and INR of 1.3 at baseline.  No evidence of
   encephalopathy.
   - avoid medications with hepatotoxicity
   - management as above
   ICU Care
   Nutrition: No IVF, replete electrolytes, NPO
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2176-7-8**] 11:05 PM
   18 Gauge - [**2176-7-9**] 08:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Lives with girlfriend, [**Name (NI) 987**] [**Name (NI) 7927**]
   [**Telephone/Fax (1) 7928**]
   Code status: Full code
   Disposition:

2176-07-11 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated; satting well on 3L NC
   - Hct stable overnight (27.1 > 25.8 > 26.2 > 24.4 > 25.9) although pt
   noted to have a black stool (not guaiac'd)
   - Started CIWA scale but ?requiring
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2176-7-10**] 07:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-7-10**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-7-11**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 86 (85 - 102) bpm
   BP: 124/70(82) {99/58(68) - 130/73(86)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,287 mL
                                                                    100 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,637 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,440 mL
                                                                  1,120 mL
   Urine:
                                                                  3,420 mL
                                                                  1,120 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,153 mL
                                                                 -1,020 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///31/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: RRR, S1-S2 nl, no m/r/g
   Respiratory / Chest: CTA b/l
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: trace edema b/l
   Skin:  Warm
   Neurologic:
   Labs / Radiology
   71 K/uL
   9.0 g/dL
   104 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.2 mEq/L
   7 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   3.5 K/uL
        [image002.jpg]
                             [**2176-7-9**]  04:51 AM
                             [**2176-7-9**]  10:16 AM
                             [**2176-7-9**]  07:25 PM
                             [**2176-7-9**]  09:43 PM
                             [**2176-7-10**]  01:15 AM
                             [**2176-7-10**]  06:12 AM
                             [**2176-7-10**]  11:20 AM
                             [**2176-7-10**]  05:01 PM
                             [**2176-7-10**]  11:29 PM
                             [**2176-7-11**]  04:23 AM
   WBC
   5.1
   7.2
   5.1
   4.6
   3.5
   Hct
   25.6
   26.6
   24.6
   27.1
   25.8
   26.2
   24.4
   25.9
   Plt
   75
   82
   76
   82
   71
   Cr
   0.7
   0.7
   TCO2
   28
   30
   Glucose
   129
   104
   Other labs: PT / PTT / INR:15.3/29.1/1.4, ALT / AST:240/379, Alk Phos /
   T Bili:76/1.3, Differential-Neuts:78.9 %, Lymph:16.3 %, Mono:4.2 %,
   Eos:0.4 %, Lactic Acid:1.7 mmol/L, Albumin:3.2 g/dL, LDH:159 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   38 year-old man with a history of alcoholic cirrhosis, grade 1
   esophogeal varices, duodenal ulcer, and [**Doctor First Name 241**]-[**Doctor Last Name 37**] tear who presents
   with upper GIB.
   # GI bleed: Hct at presentation 29, down from a baseline of 49 with h/o
   prior GI bleeds secondary to multiple etiologies, including perforated
   duodenal ulcer and [**Doctor First Name 241**]-[**Doctor Last Name 37**] tear. This episode likely secondary to
   gastric variceal bleed as clots and blood in fundus on EGD though no
   active bleeding seen. Now s/p TIPS procedure with Hct remaining in
   25-27 range.
   - TIPS U/S
   - Cont Pantoprazole 40mg IV BID
   - Off octreotide gtt
   - Cont cipro ppx x [**6-13**] day course
   - Active T&S, q6h CBC checks, transfuse for Hct<25, Plt<50
   - F/u hepatology recs
   # Transaminitis: LFTs higher today than day prior to TIPs. Suspect
   result of surgery.
   - Will d/c with hepatology.
   # Alcoholic cirrhosis:  Has portal hypertension with varices on EGD.
   On nadolol as outpatient.  Also with good synthetic function overall
   with albumin of 4 and INR of 1.3 at baseline.  No evidence of
   encephalopathy.
   - avoid medications with hepatotoxicity
   - management as above
   # Alcoholism:  History of alcoholism but currently drinking 4-6 beers
   three days per week per his girlfriend.  [**Name (NI) **] of Dr.[**Name (NI) 7929**] as
   outpatient and has not abstained from alcohol despite regular
   encouragement.
   - thiamine 100 mg/day and MVI
   - CIWA with valium in setting of alcoholic cirrhosis
   - social work consult
   # Respiratory failure:  Intubated for airway protection in setting of
   massive upper GIB.  No history of lung disease at baseline. Now s/p
   extubation
   - Wean off O2 as tolerated
   ICU Care
   Nutrition: Clears, advance per Hep recs
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2176-7-8**] 11:05 PM
   18 Gauge - [**2176-7-9**] 08:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Lives w/ girlfriend [**Name (NI) 987**] [**Name (NI) 7927**] [**Telephone/Fax (1) 7969**]
   Code status: Full code
   Disposition:Call-out to floor